US04956359
1-[3-[4-(Trifluoromethyl)phenoxy]-1-azetidinylcarbonyl]-1H-imidazole
A mixture of 1.7 g (0.01 mole) 1,1'-carbonyldiimidazole in 50 ml of tetrahydrofuran and 3 g (0.015 mole) of 3-[4-(trifluoromethyl)phenoxy]azetidine was stirred for 6 hr. The reaction mixture was diluted with water and extracted with 3×50 ml of methylene chloride. The extracts upon concentrating in vacuo gave an amber residue which was dissolved in 20 ml of benzene and washed with dilute hydrochloric acid, then washed with water. The benzene portion was concentrated to give a semi-solid residue which when triturated with isopropyl ether gave 1.4 g of gray material. Recrystallization from acetonitrile gave 1.3 g (41.8%) of fine gray crystals, m.p. 139°-140° C.

reactant | 1,1'-carbonyldiimidazole | 0.01 mole, 1.7 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-[4-(trifluoromethyl)phenoxy]azetidine | 0.015 mole, 3 g | FC(C1=CC=C(OC2CNC2)C=C1)(F)F | C10H10F3NO
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 1-[3-[4-(Trifluoromethyl)phenoxy]-1-azetidinylcarbonyl]-1H-imidazole | 1.4 g | FC(C1=CC=C(OC2CN(C2)C(=O)N2C=NC=C2)C=C1)(F)F | C14H12F3N3O2
